US08957203B2
A mixture of (2R,6S,7R,13aS,14aR,16aS,Z)-6-((tert-butoxycarbonyl)amino)-2-((4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid (70 mg, 0.108 mmol), CDI (34.9 mg, 0.215 mmol) in tetrahydrofuran (3 mL) was refluxed for 2 h. It was then cooled to rt and cyclobutanesulfonamide (32.0 mg, 0.237 mmol) was added and followed by DBU (0.036 mL, 0.237 mmol). The mixture was stirred at rt for 16 h. It was then concentrated and purified by silica gel chromatography, eluting with 40% acetone/hexane to isolate 70 mg of the diastereomers tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-14a-((cyclobutylsulfonyl)carbamoyl)-2-((4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate that was used as it was.

reactant | (2R,6S,7R,13aS,14aR,16aS,Z)-6-((tert-butoxycarbonyl)amino)-2-((4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid | 0.108 mmol, 70 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC(CC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC3=NC=C(C1=CC=CC=C31)OC)=O)(C2)C(=O)O)C)C | C35H46N4O8
reactant | CDI | 0.215 mmol, 34.9 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cyclobutanesulfonamide | 0.237 mmol, 32.0 mg | C1(CCC1)S(=O)(=O)N | C4H9NO2S
reactant | DBU | 0.237 mmol, 0.036 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-14a-((cyclobutylsulfonyl)carbamoyl)-2-((4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | C1(CCC1)S(=O)(=O)NC(=O)[C@]12NC([C@H]3N(C([C@H]([C@@H](CC(CC\C=C/[C@@H]1C2)C)C)NC(OC(C)(C)C)=O)=O)C[C@@H](C3)OC3=NC=C(C2=CC=CC=C32)OC)=O | C39H53N5O9S
